US05100897
2-n-Butyl-3-(2'-carboxybiphen-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one
The title compound is prepared form N-(2'-t-butoxycarbonylbiphen-4-yl)methylvaleramidine and diethyl ethoxymethylenemalonate (Aldrich) similarly to that in Example 7. The t-butyl ester is hydrolyzed in neat trifluoroacetic acid to give the title compound.

reactant | N-(2'-t-butoxycarbonylbiphen-4-yl)methylvaleramidine | C(C)(C)(C)OC(=O)C1=C(C2=CC=C(C=C2)CNC(CCCC)=N)C=CC=C1 | C23H30N2O2
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-n-Butyl-3-(2'-carboxybiphen-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one | C(CCC)C1=NC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)=O)C(=O)OCC | C25H26N2O5
